US04136256
Preparation of 3-bromopropyl-4-hexadecylaminobenzamide
To a slurry of 21.80 g. of 2-bromopropylamine hydrobromide in 200 ml. of glyme at 3° C. was added a solution of 23.96 g. of 4-(hexadecylamino)benzoyl chloride hydrochloride in 65 ml. of glyme, concurrently with 26 ml. of triethylamine diluted to 39 ml. with glyme. The solution was warmed to reflux and 0.2 g. of 4-dimethylaminopyridine was added. The solution was heated for four hours and cooled overnight. The solid was removed and the mother liquor diluted with 200 ml. of water giving 12.94 g. (55%). The solid was recrystallized from cyclohexane (7.7 g.). A 500 mg. aliquot was recrystallized from acetonitrile (0.43 g.). A one gram sample was loaded onto 85 gm. of silica gel and two components removed by elution with chloroform. The largest (0.6 g.) component was recrystallized from acetonitrile (0.4 g.) m.p. 115°-115° C.

reactant | 2-bromopropylamine hydrobromide | Br.BrC(CN)C
reactant | 4-(hexadecylamino)benzoyl chloride hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)Cl)C=C1
reactant | triethylamine | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | glyme | C(OC)COC | C4H10O2
product | 3-bromopropyl-4-hexadecylaminobenzamide | BrCCCC1=C(C(=O)N)C=CC(=C1)NCCCCCCCCCCCCCCCC | C26H45BrN2O
